* por-vth -- stimulus half of the testbench fragment.
*
* The other half is a verbatim copy of design/netlist/temp_por_top.spice,
* appended by sim/build_tb.py to produce tb_por_vth.spice. That one file
* already carries every sub-circuit definition the top level instantiates, so
* this DUT is the WHOLE assembled block (bias_core + temp_core +
* por_comparator + por_output_chain), with nothing idealised. Edit THIS file
* (or the schematics), never the generated fragment.
*
* Netlist FRAGMENT: no .include / .lib / .temp / .control / .end -- the
* harness owns those. Parameters it supplies: vdd_val, vdd_nom, temp_c.
*
* WHAT THIS EXPERIMENT SUBSTANTIATES
*
* spec/target-spec.md#por-vth-rise, #por-vth-fall, #por-hysteresis --
* corner-worst-case (deterministic, not Monte Carlo) extraction of the
* release/assert threshold pair and the hysteresis, on the FULL ASSEMBLY
* rather than the idealised-VREF/IBIAS cell-level check
* sim/por-comparator-designer-check/ already ran. That record's own text
* names this exact gap: "IBIAS/VREF are idealised fixed stimuli standing in
* for bias_core ... Full ramp-rate/brownout/reset-pulse-interaction evidence
* against a real (non-idealised) startup sequence remains #14's job." This
* deck answers the threshold/hysteresis half of that with bias_core's real
* (corner-dependent, ~1.19-1.21 V per sim/temp-por-top-release/) VREF in the
* loop instead of an idealised 1.2 V source.
*
* Measured on the internal POR_RAW node (v(xdut.por_raw)), not RESETn: RESETn
* only deasserts after por_output_chain's deglitch dwell and >=1 ms one-shot
* have both elapsed (sim/por-output-chain-pulse/, sim/temp-por-top-release/
* measures 5.6-17.0 ms end to end on the assembly), so measuring the
* threshold off RESETn would fold that unrelated timing into a voltage claim.
* POR_RAW is the comparator's own decision, which is what "release/assert
* threshold" means in spec/target-spec.md section 4.1.
*
* Corner-worst-case only: design.ngspice sets sw_stat_mismatch=0, so this is
* the SYSTEMATIC/corner term. The [3sigma] mismatch share stays #15's job,
* exactly as sim/por-comparator-designer-check/ already states -- this record
* does not change that row's `conditional #15` status, only its full-assembly
* evidence.
*
* RAMP RATE CHOICE: quasi-static ACROSS THE THRESHOLD BAND, fast elsewhere.
* Both threshold edges live between 2.22 V and 2.73 V by ratification, so
* that band -- and only that band -- has to be traversed slowly enough for
* the bias core to be settled at every instant. The rail therefore covers
* 0 -> 2.0 V in 1 ms (2000 V/s = 0.002 V/us, comfortably inside the ratified
* por-ramp-rate envelope and 180x below the 0.36 V/us boundary at which
* design/bias_core.md measures the starved loop starting to lag), and only
* then slows to 243-408 V/s for the 2.0 V -> vdd_val -> 2.0 V traversal that
* actually contains both crossings. 243-408 V/s is the same order as the
* 121 V/s primary and 484 V/s 4x-replica branches sim/bias-core-startup/
* runs and validates as rate-independent. This is deliberately NOT the fast
* end of por-ramp-rate: a threshold extraction wants the bias core settled
* at every instant, not fighting the starved-loop window that
* sim/por-ramp-rate/ and sim/por-brownout/ exist to characterise.
*
* Starting the slow segment at 2.0 V is safe for the crossing detection:
* sim/por-comparator-designer-check/ measures POR_RAW at a 2 V rail at
* 6.8e-6 to 6.7e-5 mV over the whole grid (`por_at_2v_mv`), i.e. a hard
* logic low six decades below this deck's 1.5 V crossing level, so the
* first rising crossing cannot land in the fast segment.
*
* THE RAIL STOPS AT 2.0 V, IT DOES NOT COLLAPSE TO 0 V. VPOR-downarrow,min
* is 2.22 V, so a down-ramp that stops at 2.0 V clears the ratified assert
* threshold by >=0.22 V at every corner and captures the falling crossing.
* Continuing to 0 V would add nothing to this claim -- the below-floor
* behaviour of POR_RAW is sim/por-comparator-designer-check/'s
* `por_at_0p5v`/`por_at_1v` probes, and the below-floor RESETn valid-low
* claim is sim/por-output-chain-floor/'s and sim/por-brownout/'s -- while
* making the deck several times more expensive to solve (the assembled
* block in deep collapse is where ngspice spends nearly all of its time on
* this netlist). Cheap evidence that is in scope beats expensive evidence
* that duplicates three existing records.
*
* TIMESTEP: the manifest asks for `tran 10u 17m`. On the quasi-static
* segments the rail moves 2.4-4.1 mV per 10 us step, and the quantity
* extracted is not the step grid but the rail voltage at the instant
* POR_RAW crosses 1.5 V -- a hysteretic comparator edge that resolves in
* microseconds, so local truncation error refines the step by orders of
* magnitude across the crossing itself and `meas ... when` interpolates
* between the refined points. The ceiling therefore bounds solve cost on
* the flat hold, not the resolution of either threshold.
*
* PAD LOAD: 1 pF plus a 1 Tohm DC leak on each of PTAT and CTAT, matching
* sim/temp-por-top-release/ and sim/temp-accuracy-vt/ exactly. The resistors
* are not a model of anything physical -- they are the DC reference the two
* analogue pads need in the state this deck spends most of its time in.
* While RESETn is asserted temp_core is disabled and its outputs are high
* impedance (DR-010's disabled-consumer contract), so without them PTAT and
* CTAT are capacitively coupled floating nodes, and ngspice's local
* truncation error control collapses the timestep trying to track them: an
* early revision of these decks, identical but for these four lines, ran
* >450 s of CPU per PVT point without completing, against ~36 s for the
* comparable 30 ms transient in sim/temp-por-top-release/. 1 Tohm at a
* ~1.3 V pad is 1.3 pA, four to five orders of magnitude below the block's
* own nanoamp-scale currents, so it references the node without loading it.
*
* ONE DUT, ONE TRIANGLE WAVE -- half the circuit size of the two-DUT idiom
* sim/por-comparator-designer-check/ and sim/bias-core-startup/ use
* elsewhere in this repo, chosen here because the full four-cell assembly is
* far more expensive per point than a single sub-circuit: a single DUT
* cold-starts, ramps up (VPOR-uparrow), settles, then ramps back down
* (VPOR-downarrow) at the SAME corner point, on the SAME instance, so
* "same corner point" is exact by construction, not merely by using
* identical corner libs across two instances.
*
*   0    ->  1 ms   cold start: VDD ramps 0 -> 2.0 V at 2000 V/s. Below every
*                    corner's assert threshold throughout, POR_RAW never
*                    leaves its hard low (see above).
*    1   ->  5 ms   VDD ramps 2.0 V -> vdd_val quasi-statically --
*                    VPOR-uparrow, measured off v(xdut.por_raw).
*    5   -> 11 ms   held at vdd_val -- rail settled, reference settled.
*                    POR_RAW is the comparator's own decision and has already
*                    resolved on the up-ramp; this hold exists so both VREF
*                    samples below are taken on a settled reference and so
*                    the down-ramp starts from a genuinely static state.
*   11   -> 15 ms   VDD ramps vdd_val -> 2.0 V quasi-statically --
*                    VPOR-downarrow, measured off the SAME v(xdut.por_raw),
*                    at the SAME corner point as the rise above.
*   15   -> 17 ms   held at 2.0 V -- tail observation margin, below every
*                    corner's assert threshold.
*
* V_hys = VPOR-uparrow - VPOR-downarrow follows directly from the two edges.

vsup vdd 0 PWL(0 0 1m 2.0 5m {vdd_val} 11m {vdd_val} 15m 2.0 17m 2.0)
Cpp ptat 0 1p
Cpc ctat 0 1p
Rlp ptat 0 1T
Rlc ctat 0 1T
Crn resetn 0 5p
xdut vdd 0 ptat ctat resetn temp_por_top
